US06369273B1
2-Fluoro-4-phenylthioaniline
Tetrakis(triphenylphosphine)palladium(0) (0.578 g) was added to a deoxygenated mixture of 2-fluoro-4-iodoaniline (2.37 g), thiophenol (1.07 ml) and sodium methoxide (1.13 g) in ethanol (80 ml). The mixture was further deoxygenated by evacuation and refilling with argon (3 cycles) then heated under reflux with stirring under argon for 18 hours, cooled and filtered. The filter was washed with ether (3×20 ml) and the filtrates were combined and volatile material was removed by evaporation. The residue was treated with dichloromethane (50 ml), filtered and reconcentrated. This crude product was purified by chromatography on a silica gel Mega Bond Elut column eluting with 50-70% dichloromethane/hexane to give the title compound (1.851 g) as a solid. M.p. 48-49° C.; NMR: 5.5 (s, 2H), 6.8 (t, 1H), 7.0-7.1 (m, 5H), 7.25 (t, 2H).

reactant | 2-fluoro-4-iodoaniline | 2.37 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | thiophenol | 1.07 ml | C1(=CC=CC=C1)S | C6H6S
reactant | sodium methoxide | 1.13 g | C[O-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.578 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Fluoro-4-phenylthioaniline | 1.851 g | FC1=C(N)C=CC(=C1)SC1=CC=CC=C1 | C12H10FNS
